US07375227B2
381C. 2-(4-Benzyl-piperidin-1-yl)-ethylamine
[2-(4-Benzyl-piperidin-1-yl)-ethyl]-carbamic acid tert-butyl ester (1.34 g, 4.2 mmol) is dissolved in CHCl3 (3 mL) and treated with TFA (3 mL) for 2 h at 20° C. The solvent is evaporated, the residue dissolved CH2Cl2 (100 mL) and washed with 1M aqueous NaOH (2×30 mL). The organic layer is dried (Na2SO4), filtered and concentrated to provide the title compound.

reactant | [2-(4-Benzyl-piperidin-1-yl)-ethyl]-carbamic acid tert-butyl ester | 4.2 mmol, 1.34 g | C(C)(C)(C)OC(NCCN1CCC(CC1)CC1=CC=CC=C1)=O | C19H30N2O2
reactant | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CHCl3 | 3 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-(4-Benzyl-piperidin-1-yl)-ethylamine | C(C1=CC=CC=C1)C1CCN(CC1)CCN | C14H22N2
